US07276516B2
N-(4-Fluoro-3-methoxy-benzyl)-4-(3-piperidin-1-yl-indole-1-sulfonyl)-benzamide Hydrochloride
Add KotBu (211 mg, 1.88 mmol) to a solution of 3-piperidin-1-yl-1H-indole (299 mg, 1.49 mmol) in dioxane (15 mL). Stir the yellow solution at RT for 30 min then treat with 4-(4-fluoro-3-methoxy-benzylcarbamoyl)-benzenesulfonyl chloride (560 mg, 1.56 mmol). Stir the solution at RT for an additional 2 h, then dilute with EtOAc (50 mL) and wash with satd NaHCO3 (25 mL). Remove the organic phase and extract the aqueous layer with additional EtOAc (50 mL). Combine the organic solutions, dry over Na2SO4, filter, and concentrate. Purify the crude material by flash chromatography (3×) using an oversized silica column and a gradient of 100% hexanes to 40% EtOAc/hexanes. Concentrate fractions containing pure material then redissolve in CH2Cl2 (10 mL) and treat with 4M HCl/dioxane (0.5 mL). Filter the off-white precipitate and dry under vacuum to give the title compound as a white powder (417 mg). MS (ES+) 522.1 (M+1)+, (ES−) 520.2 (M−1)−. 1H NMR (400 MHz, DMSO-d6): δ 9.19 (m, 1H), 8.03 (d, 2H, J=8.4), 7.97 (m, 1H), 7.95 (d, 2H, J=8.4), 7.61 (d, 1H, J=7.5), 7.37 (t, 1H, J=7.6), 7.26 (t, 2H, J=7.5), 7.06-7.13 (m, 2H), 6.81 (m, 1H), 6.12 (br s, 1H), 4.39 (d, 2H, J=5.7), 3.78 (s, 3H), 3.06 (s, 4H), 1.72 (s, 4H), 1.56 (s, 2H).

reactant | 3-piperidin-1-yl-1H-indole | 1.49 mmol, 299 mg | N1(CCCCC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | 4-(4-fluoro-3-methoxy-benzylcarbamoyl)-benzenesulfonyl chloride | 1.56 mmol, 560 mg | FC1=C(C=C(CNC(=O)C2=CC=C(C=C2)S(=O)(=O)Cl)C=C1)OC | C15H13ClFNO4S
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-(4-Fluoro-3-methoxy-benzyl)-4-(3-piperidin-1-yl-indole-1-sulfonyl)-benzamide Hydrochloride | 417 mg | Cl.FC1=C(C=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)N2CCCCC2)=O)C=C1)OC | InChI=1S/C28H28FN3O4S.ClH/c1-36-27-17-20(9-14-24(27)29)18-30-28(33)21-10-12-22(13-11-21)37(34,35)32-19-26(31-15-5-2-6-16-31)23-7-3-4-8-25(23)32;/h3-4,7-14,17,19H,2,5-6,15-16,18H2,1H3,(H,30,33);1H
